* source LAB11-3
V_V3         VA 0 5Vdc
R_R2         N00859 VA  1  
R_R3         0 N00859  1k  
V_V1         V+ 0 12Vdc
X_U1A         N00826 N00859 V+ V- VO10 LM358
R_R4         N00826 N00799  1k  
V_V2         V- 0 -12Vdc
R_R5         N00799 N00772  1k  
R_R6         N00772 N00745  1k  
R_R7         N00745 0  2k  
R_R8         G N00745  2k  
R_R9         VA N00772  2k  
R_R10         G N00799  2k  
R_R11         VA N00826  2k  
R_R1         0 VO10  1k  
