* source LAB13
V_V1         VIN N00346  
+SIN 0 10 50 0 0 0
D_D1         0 VIN D1N4001 
D_D3         N00346 0 D1N4001 
D_D2         VOUT VIN D1N4001 
C_C1         0 VOUT  100u  
D_D4         N00346 VOUT D1N4001 
R_R1         0 VOUT  1k  
