* source LAB1_1.3
V_V1         VCC 0 12Vdc
R_R1         A VCC  200  
R_R2         VCC B  10  
R_Rload         A B  500  
R_R3         A 0  1000  
R_R4         0 B  20  
