* source LAB1_1.9
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ DATA 
+ IO_STM
+ IO_LEVEL=0
+  LABEL = STARTLOOP  
+ +0US 0  
+ +100US 1  
+ +100US 0 
+ +100US 1  
+ +100US 0  
+ +100US 1  
+ +100US 0  
+ +100US 1  
+ +100US 0  
+ +0US GOTO STARTLOOP 100 TIMES  
X_U2A         DATA NRZ $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         NRZ N01454  1k  
V_V1         N01454 0 5Vdc
