* source TESTPRE
R_R6         N02319 1  100  
V_V3         N02319 0  
+SIN 0 1 1041 0 0 0
R_R3         3 1  49  
R_R4         0 3  321  
R_RL         2 3  100  
R_R1         1 2  4429  
R_R2         2 0  157  
